US07514470B2
N2-[4-Cyano-3-(trifluoromethyl)phenyl]-N2-(2,2-dimethylpropyl)glycinamide
To a solution of N-[4-cyano-3-(trifluoromethyl)phenyl]-N-(2,2-dimethylpropyl)glycine (1.13 g, 3.58 mmol) in CH2Cl2 (10 mL) at 0° C. was added oxalyl chloride (0.33 mL, 3.76 mmol), followed by DMF (0.01 mL, 0.2 mmol). The resulting solution was stirred 5 min in the cooling bath, 20 min at rt and 1 h at reflux under N2. After cooling to rt, the solution was slowly poured into NH4OH (10 mL of a 30 wt % solution) at 0° C., stirred 30 min, and the layers were separated. The aqueous layer was extracted with CH2Cl2 (×2), combined organics were washed (water, brine), dried over Na2SO4, filtered and concentrated in vacuo. The crude product was recrystallized from IPA/hexanes, affording 0.642 g of the title compound as a colorless, amorphous solid. The mother liquor was concentrated and purified by flash chromatography (EtOAc/hexanes), affording an additional 0.241 g of the title compound: 1H NMR (400 MHz, CDCl3) δ 7.61 (d, J=8.9 Hz, 1H), 7.07 (d, J=2.5 Hz, 1H), 6.85 (dd, J=8.9, 2.6 Hz, 1H), 5.70 (bs, 1H), 5.59 (bs, 1H), 4.12 (s, 2H), 3.38 (s, 2H), 1.03 (s, 9H).

reactant | N-[4-cyano-3-(trifluoromethyl)phenyl]-N-(2,2-dimethylpropyl)glycine | 3.58 mmol, 1.13 g | C(#N)C1=C(C=C(C=C1)N(CC(=O)O)CC(C)(C)C)C(F)(F)F | C15H17F3N2O2
reactant | oxalyl chloride | 3.76 mmol, 0.33 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | NH4OH | [NH4+].[OH-]
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
catalyst | DMF | 0.2 mmol, 0.01 mL | CN(C)C=O | C3H7NO
product | N2-[4-Cyano-3-(trifluoromethyl)phenyl]-N2-(2,2-dimethylpropyl)glycinamide | 0.642 g | C(#N)C1=C(C=C(C=C1)N(CC(=O)N)CC(C)(C)C)C(F)(F)F | C15H18F3N3O
